US04085272
Preparation of 1-Ethynyl-1-trimethylsilyloxycyclohexane
A 194 g portion of imidazole and 158.2 g of 1-ethynylcyclohexane-1-ol are mixed with 500 g of dimethylformamide with cooling in an ice bath. A 152 g portion of trimethylchlorosilane is added with cooling and stirring in about one minute. The mixture is stirred for one hour and allowed to stand overnight. One liter of hexane is added. The lower layer is separated, diluted with water and extracted with hexane. The hexane layers are washed several times with water and then combined and dried over magnesium sulfate. Filtration and then evaporation of the hexane gives 198.5 g of product which is distilled giving 168 g of the desired product.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 1-ethynylcyclohexane-1-ol | 158.2 g | C(#C)C1(CCCCC1)O | C8H12O
reactant | dimethylformamide | 500 g | CN(C=O)C | C3H7NO
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | One liter | CCCCCC | C6H14
product | 1-Ethynyl-1-trimethylsilyloxycyclohexane | 198.5 g | C(#C)C1(CCCCC1)O[Si](C)(C)C | C11H20OSi
